US05637770
(2) 8-Amino-5-methoxy-4-(1,3-dioxoisoindolin-2-yl)-1-tetralone
424 mg of the compound obtained in (1) above, 288 mg of phthalimide, and 517 mg of triphenylphosphine was added to 20 ml of dried THF. While cooling in an ice-water bath, a THF solution of 0.34 ml of diethylazodicarboxylate (hereinafter abbreviated as "DEAD") was slowly added to the above mixture. After stirring for 30 minutes at the same temperature and an addition of 30 ml of water, the mixture was extracted with chloroform. The chloroform layer was washed with saturated brine and dried over magnesium sulfate. To the residue obtained by the concentration of the solvent were added 50 ml of dioxane, 50 ml of ethanol, and 280 mg of 10% palladium-on-carbon to effect catalytic hydrogenation. After removal of the catalyst by filtration and concentration of the filtrate, the residue was subjected to silica gel column chromatography using an chloroform-ethyl acetate (9:1) mixed solvent as an eluant to obtain fractions containing the target compound. The fractions were concentrated to produce 306 mg of the title compound.

reactant | phthalimide | 288 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 517 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | THF | 20 ml | C1CCOC1 | C4H8O
reactant | diethylazodicarboxylate | 0.34 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 280 mg | [Pd] | Pd
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | 30 ml | O | H2O
product | 8-Amino-5-methoxy-4-(1,3-dioxoisoindolin-2-yl)-1-tetralone | 306 mg | NC=1C=CC(=C2C(CCC(C12)=O)N1C(C2=CC=CC=C2C1=O)=O)OC | C19H16N2O4
